US05216165
F) 4-[[4-[[[4-[(7-Chloro-4-quinolinyl)amino]phenyl]methyl]amino]-1-piperidinyl]-methyl]-N,N-diethylbenzamide, hydrochloride
4-[(4-Amino-1-piperidinyl)methyl]-N,N-diethylbenzamide (3.81 g, 13.16 mmol) and 4-[(7-chloro-4-quinolinyl)amino]benzaldehyde hydrochloride (13.16 mmol, 4.20 g) are refluxed for 28 hours in 52 mL of toluene under nitrogen with azeotropic removal of water. The toluene is poured off the thick oil, which is then rinsed once with fresh toluene. The remaining traces of solvent are removed in vacuo and the resulting gum is dissolved in 55 mL of ethanol and treated with NaBH4 (14.6 mmol, 552 mg). The reaction mixture is refluxed for 50 minutes, treated with another 200 mg of NaBH4 and refluxed an additional 10 minutes. The reaction mixture is poured over 100 mL of ice, which results in the formation of an orange oil. After stirring rapidly for seven days, the water is decanted and the oil is purified by flash chromatography on silica gel (65 mm column, 5% ammonia saturated methanol in methylene chloride eluent) which affords 1.55 g (2.79 mmol, 21% yield) of the title compound as the free base. Of this, 0.95 g (1.7 mmol) are dissolved in 5 mL of methanol and treated with 1.7 mL of 1N ethereal HCl. The resulting solution is concentrated in vacuo and the residue is triturated with ether for 23 hours. The resulting yellow powder is filtered, washed with ether and dried in vacuo at 60° C. for 16.5 hours, affording 896 mg of the title compound: mp 166°-190° C. (softens slowly over this range); 1H NMR (Me2SO-d6, 400 MHz) δ9.37 (br s, 1H), 8.5 (m, 2H), 7.91 (d,J=2.2 Hz, 1H), 7.6 (m, 3H), 7.28-7.42 (m, 6H), 6.96 (d,J=5.4 Hz, 1H), 4.12 (s, 2H), 2.9-3.6 (m, 10H), 2.1 (m, 4H), 1.7-1.8 (m, 2H), 1-1.2 (m, 6H);

reactant | 4-[(4-Amino-1-piperidinyl)methyl]-N,N-diethylbenzamide | 13.16 mmol, 3.81 g | NC1CCN(CC1)CC1=CC=C(C(=O)N(CC)CC)C=C1 | C17H27N3O
reactant | 4-[(7-chloro-4-quinolinyl)amino]benzaldehyde hydrochloride | 13.16 mmol, 4.20 g | Cl.ClC1=CC=C2C(=CC=NC2=C1)NC1=CC=C(C=O)C=C1
reactant | water | O | H2O
reactant | NaBH4 | 14.6 mmol, 552 mg | [BH4-].[Na+]
reactant | NaBH4 | 200 mg | [BH4-].[Na+]
solvent | toluene | 52 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[[4-[[[4-[(7-Chloro-4-quinolinyl)amino]phenyl]methyl]amino]-1-piperidinyl]-methyl]-N,N-diethylbenzamide, hydrochloride | 2.79 mmol, 1.55 g, 21% yield | Cl.ClC1=CC=C2C(=CC=NC2=C1)NC1=CC=C(C=C1)CNC1CCN(CC1)CC1=CC=C(C(=O)N(CC)CC)C=C1 | InChI=1S/C33H38ClN5O.ClH/c1-3-39(4-2)33(40)26-9-5-25(6-10-26)23-38-19-16-28(17-20-38)36-22-24-7-12-29(13-8-24)37-31-15-18-35-32-21-27(34)11-14-30(31)32;/h5-15,18,21,28,36H,3-4,16-17,19-20,22-23H2,1-2H3,(H,35,37);1H
